US07414043B2
9α-Vinylestra-1,3,5(10)-triene-3,16α-diol
Under inert-gas atmosphere, 3.1 g (7.9 mmol) of triphenylmethyl phosphonium iodide and 0.24 g (8 mmol) of sodium hydride (80% in paraffin oil) in 20 ml of DMSO in an ultrasound bath are brought to reaction at about 55° C. After 10 minutes, 80 mg (0.16 mmol, about 60%) of 3,16α-dihydroxyestra-1,3,5(10)-triene-9 carbaldehyde is added to the solution, and the mixture is allowed to react for 60 more minutes at about 55° C. in an ultrasound bath. After water is added, it is extracted with ethyl acetate. The collected organic phases are washed with water, and the organic phase is concentrated by evaporation in a vacuum.

reactant | triphenylmethyl phosphonium iodide | 7.9 mmol, 3.1 g | [I-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | sodium hydride | 8 mmol, 0.24 g | [H-].[Na+]
reactant | 3,16α-dihydroxyestra-1,3,5(10)-triene-9 carbaldehyde | 0.16 mmol, 80 mg | OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C[C@@]4(C)CC[C@@]3(C2C=C1)C=O)O | C19H24O3
reactant | water | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 9α-Vinylestra-1,3,5(10)-triene-3,16α-diol | C(=C)[C@@]12C=3C=CC(=CC3CC[C@H]1[C@@H]1C[C@H](C[C@@]1(C)CC2)O)O | C20H26O2
